US07612103B2
To a solution of 3.29 g of N-BOC-1,2,5,6-tetrahydropyridine in 25 ml of CH2Cl2, a suspension of 6.2 g of chloroperbenzoic acid in 50 ml of CH2Cl2 are added and the mixture obtained is stirred for ca. 12 hours at RT. The mixture obtained is extracted with saturated aqueous NaHCO3-solution and 0.5 m aqueous Na2S5O3-solution and the organic phase obtained is washed, dried and the solvent is evaporated. N-BOC-3,4-epoxy-piperidine is obtained.

reactant | N-BOC-1,2,5,6-tetrahydropyridine | 3.29 g | C(=O)(OC(C)(C)C)N1CC=CCC1 | C10H17NO2
reactant | chloroperbenzoic acid | 6.2 g | ClC1=CC=CC=C1C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-3,4-epoxy-piperidine | C(=O)(OC(C)(C)C)N1CC2C(CC1)O2 | C10H17NO3
